US04225730
5-(2,4-difluorophenyl)salicylic acid, an anti-inflammatory, anti-pyretic, analgesic agent is prepared by: (1) diazotizing 2,4-difluoroaniline in the presence of benzene to yield 2,4-difluorobiphenyl; (2) Friedel-Crafts acylation to produce 2',4'-difluoro-4-alkanoylbiphenyl; (3) oxidation of the alkanoyl group to produce 2',4'-difluoro-4-alkanoyloxybiphenyl; (4) hydrolysis of the alkanoyl group to produce 4-(2,4-difluorophenyl)phenol; and (5) Kolbe-Schmitt carboxylation to produce the final product.

reactant | 5-(2,4-difluorophenyl)salicylic acid | FC1=C(C=CC(=C1)F)C1=CC=C(C(C(=O)O)=C1)O | C13H8F2O3
reactant | 2,4-difluoroaniline | FC1=C(N)C=CC(=C1)F | C6H5F2N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,4-difluorobiphenyl | FC1=C(C=CC(=C1)F)C1=CC=CC=C1 | C12H8F2
